US05047411
A solution of 2-(4-aminobenzyl)pyridine (3.8 g) and methyl isothiocyanate (2.0 g) in ethanol (100 ml) was heated under reflux for 2 hours. Evaporation of the solvent gave a residue which was triturated with diethyl ether to give a precipitate. The precipitate was collected by filtration and dried to give 2-[4-(3-methylthioureido)benzyl]pyridine (4.11 g).

reactant | 2-(4-aminobenzyl)pyridine | 3.8 g | NC1=CC=C(CC2=NC=CC=C2)C=C1 | C12H12N2
reactant | methyl isothiocyanate | 2.0 g | CN=C=S | C2H3NS
solvent | ethanol | 100 ml | C(C)O | C2H6O
product | 2-[4-(3-methylthioureido)benzyl]pyridine | 4.11 g | CNC(NC1=CC=C(CC2=NC=CC=C2)C=C1)=S | C14H15N3S
